US04335127
A mixture of 4.5 parts of 1-chloro-3,3-diethoxypropane, 12.15 parts of (4-fluorophenyl) (4-piperidinyl)methanone hydrochloride, 10.6 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure factors are collected and the eluent is evaporated. The residue is crystallized from a mixture of methylbenzene and 2,2'-oxybispropane, yielding 9 parts (53%) of [1-(3,3-diethoxypropyl)-4-piperidinyl] (4-fluorophenyl)methanone.

reactant | 1-chloro-3,3-diethoxypropane | ClCCC(OCC)OCC | C7H15ClO2
reactant | (4-fluorophenyl) (4-piperidinyl)methanone hydrochloride | Cl.FC1=CC=C(C=C1)C(=O)C1CCNCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | [1-(3,3-diethoxypropyl)-4-piperidinyl] (4-fluorophenyl)methanone | 53% | C(C)OC(CCN1CCC(CC1)C(=O)C1=CC=C(C=C1)F)OCC | C19H28FNO3
